US06555577B1
A mixture of potassium carbonate (2.1 g, 15.2 mmol), tetra-N-butylammonium bromide.(0.75 g, 2.4 mmol) and palladium(II) acetate (75 mg, 0.33 mmol) in dry DMF (8 ML), under nitrogen, was stirred for 10 min. 3-(3,5-Dibromophenyl)-acrylic acid ethyl ester (1.2 g, 3.6 mmol) was added and the mixture cooled on ice. Phenylacetylene (4.0 mL, 36.0 mmol) was added and the mixture stirred at room temperature for 7 days. The reaction mixture was added water and the product extracted with ethyl acetate (×3). The combined organic phases were dried and concentrated in vacuo to give crude 3-(3,5-bis-phenylethynyl-phenyl)-acrylic acid ethyl ester.

reactant | potassium carbonate | 15.2 mmol, 2.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(3,5-Dibromophenyl)-acrylic acid ethyl ester | 3.6 mmol, 1.2 g | C(C)OC(C=CC1=CC(=CC(=C1)Br)Br)=O | C11H10Br2O2
reactant | Phenylacetylene | 36.0 mmol, 4.0 mL | C1(=CC=CC=C1)C#C | C8H6
reactant | water | O | H2O
catalyst | tetra-N-butylammonium bromide | CCCC[N+](CCCC)(CCCC)CCCC.[Br-]
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | palladium(II) acetate | 0.33 mmol, 75 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(3,5-bis-phenylethynyl-phenyl)-acrylic acid ethyl ester | C(C)OC(C=CC1=CC(=CC(=C1)C#CC1=CC=CC=C1)C#CC1=CC=CC=C1)=O | C27H20O2
